US04020094
2-(5-Oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionyl chloride is dissolved in 25 ml. of acetonitrile with stirring, and treated with 1.0 ml. of dimethylethanolamine and 1.0 ml. of triethylamine. After the solution is stirred for 16 hours, it is added to a water/ether mixture, and the organic phase washed with water and then dried and evaporated to give a crude product which after chromatography on 10 g. silica gel, eluting with chloroform then chloroform: methanol (9:1), affords β-N,N,-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate as an oil (hydrochloride salt: m.p. 136°-137° C; see Example XIV).

reactant | 2-(5-Oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionyl chloride | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H13ClO2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | dimethylethanolamine | CN(CCO)C | C4H11NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water ether | O.CCOCC
product | β-N,N,-dimethylaminoethyl 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)OCCN(C)C)C)C=CC=C2 | C22H23NO3
